US07547691B2
(A). Preparation of 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid [bis-(4-methoxyphenyl)-methyl]-amide
Diisopropylethylamine (1.80 mL, 10.3 mmol) is added to a stirred suspension of 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid (3.00 g, 9.84 mmol) in anhydrous dichloromethane (100 mL) at 0° C. under nitrogen to form a solution, then followed by the successive addition of C,C-bis-(4-methoxyphenyl)-methylamine (2.51 g, 10.3 mmol) and powdered 1H-benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (4.56 g, 10.3 mmol). The resultant mixture is allowed to stir at 0° C. for 1 hour, then at room temperature for 3 hours. Diethyl ether (50 mL) is added in small portions to the mixture, the mixture is stirred for another 10 minutes before filtration. After vacuum drying at 35° C., the crude title compound (5.19 g) is obtained as a tan solid. It is used without further purification.

reactant | Diisopropylethylamine | 10.3 mmol, 1.80 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid | 9.84 mmol, 3.00 g | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(=O)O)C | C14H9ClN2O2S
reactant | C,C-bis-(4-methoxyphenyl)-methylamine | 10.3 mmol, 2.51 g | COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)N | C15H17NO2
reactant | 1H-benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 10.3 mmol, 4.56 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | Diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid [bis-(4-methoxyphenyl)-methyl]-amide | 5.19 g | COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)Cl | C29H24ClN3O3S
